US07601844B2
(R)-2-Amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride was coupled with 3-acetoxy benzoic acid in a similar manner as described for the preparation of Example 75 to give (R)-3-((1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)carbamoyl)phenyl acetate (115 mg, 50% yield). MS found: 457.3 (M+).

reactant | (R)-2-Amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C
reactant | 3-acetoxy benzoic acid | C(C)(=O)OC=1C=C(C(=O)O)C=CC1 | C9H8O4
product | (R)-3-((1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)carbamoyl)phenyl acetate | 115 mg, 50% yield | C(C)(=O)OC1=CC(=CC=C1)C(N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C)=O | C25H29ClN2O4
